US09376441B2
To an appropriate sized microwave vial, crude (E)-6-bromo-4-((R)-1-((R)-1-((R)-1-(4-methoxyphenyl)ethyl)-5-oxopyrrolidin-3-yl)ethoxy)pyrazolo[1,5-a]pyridine-3-carbaldehyde oxime (511 mg, 1.02 mmol) was heated in acetic anhydride (5.0 mL) at 100° C. for 24 h. The reaction was concentrated under reduced pressure, neutralized with a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The combined organic layers were washed with brine, dried, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography on silica gel to afford 6-bromo-4-((R)-1-((R)-1-((R)-1-(4-methoxyphenyl)ethyl)-5-oxopyrrolidin-3-yl)ethoxy)pyrazolo[1,5-a]pyridine-3-carbonitrile.

reactant | (E)-6-bromo-4-((R)-1-((R)-1-((R)-1-(4-methoxyphenyl)ethyl)-5-oxopyrrolidin-3-yl)ethoxy)pyrazolo[1,5-a]pyridine-3-carbaldehyde oxime | 1.02 mmol, 511 mg | BrC=1C=C(C=2N(C1)N=CC2/C=N/O)O[C@H](C)[C@H]2CN(C(C2)=O)[C@H](C)C2=CC=C(C=C2)OC | C23H25BrN4O4
solvent | acetic anhydride | 5.0 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 6-bromo-4-((R)-1-((R)-1-((R)-1-(4-methoxyphenyl)ethyl)-5-oxopyrrolidin-3-yl)ethoxy)pyrazolo[1,5-a]pyridine-3-carbonitrile | BrC=1C=C(C=2N(C1)N=CC2C#N)O[C@H](C)[C@H]2CN(C(C2)=O)[C@H](C)C2=CC=C(C=C2)OC | C23H23BrN4O3
